US04182758
To a suspension of 2-(2,2-dichloroacetoxyimino)-2-phenylacetic acid (3.06 g.) in methylene chloride (20 ml.) was added phosphorus pentoxide (2.28 g.) under ice-cooling, and the mixture was stirred for 20 minutes at the same temperature and then evaporated to dryness under reduced pressure to give a residue, which was dissolved in methylene chloride (10 ml.). This solution was added dropwise to a solution of 3-(N-hydroxyamino)propylphosphonic acid (1.55 g.) and N,O-bis(trimethylsilyl)acetamide (10 g.) in methylene chloride (30 ml.) at -30° to -40° C. in the course of 5 minutes, whereafter the mixture was stirred for half an hour at the same temperature and for additional an hour at 0° C. the reaction mixture was evaporated to dryness under reduced pressure to give an oily residue, which was dissolved in water (30 ml.), stirred for 20 minutes, saturated with sodium chloride, and extracted five times with ethyl acetate (each 20 ml.) and three times with n-butanol (each 30 ml.). These extracts were evaporated to dryness under reduced pressure to give an oily residue (4.5 g.), which was dissolved in water (40 ml.). This aqueous solution was passed through a column packed with activated charcoal (100 ml.), and elution was conducted with water and then 30% aqueous acetone. The fractions containing an object compound were collected and evaporated to dryness under reduced pressure to give an oil (1.4 g.), which was dissolved in methanol and adjusted to pH 7 with 28% aqueous ammonia. The precipitates were collected by filtration and dried to give monoammonium salt of 3-[N-hydroxy-N-(2-hydroxyimino-2-phenylacetyl)amino]propylphosphonic acid (1.30 g.).

reactant | 2-(2,2-dichloroacetoxyimino)-2-phenylacetic acid | 3.06 g | ClC(C(=O)ON=C(C(=O)O)C1=CC=CC=C1)Cl | C10H7Cl2NO4
reactant | phosphorus pentoxide | 2.28 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 3-(N-hydroxyamino)propylphosphonic acid | 1.55 g | ONCCCP(O)(O)=O | C3H10NO4P
reactant | N,O-bis(trimethylsilyl)acetamide | 10 g | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | sodium chloride | [Cl-].[Na+]
reactant | ammonia | N | H3N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | water | 30 ml | O | H2O
solvent | water | 40 ml | O | H2O
solvent | methanol | CO | CH4O
product | 3-[N-hydroxy-N-(2-hydroxyimino-2-phenylacetyl)amino]propylphosphonic acid | 1.30 g | ON(C(C(C1=CC=CC=C1)=NO)=O)CCCP(O)(O)=O | C11H15N2O6P
